US05792764
3-Hexylamino-4H- pyrido[4,3-e]-1,2,4-thiadiazine 1,1-dioxide
In a similar manner the following compound was prepared: 7--Chloro-3-hexylamino-4H- pyrido[2,3-e]-1,2,4-thiadiazine 1,1-dioxide; m.p. 176-179° C.; from 7-chloro-3-(imidazol-1-yl)-4H-pyrido[2,3-e]-1,2,4-thiadiazine 1,1-dioxide and hexylamine.(Compound 12).

reactant | 7--Chloro-3-hexylamino-4H- pyrido[2,3-e]-1,2,4-thiadiazine 1,1-dioxide | ClC1=CC2=C(NC(=NS2(=O)=O)NCCCCCC)N=C1 | C12H17ClN4O2S
reactant | 7-chloro-3-(imidazol-1-yl)-4H-pyrido[2,3-e]-1,2,4-thiadiazine 1,1-dioxide | ClC1=CC2=C(NC(=NS2(=O)=O)N2C=NC=C2)N=C1 | C9H6ClN5O2S
reactant | hexylamine | C(CCCCC)N | C6H15N
product | 3-Hexylamino-4H- pyrido[4,3-e]-1,2,4-thiadiazine 1,1-dioxide | C(CCCCC)NC1=NS(C2=C(N1)C=CN=C2)(=O)=O | C12H18N4O2S
